US04713383
As in Example 39, 3-furoic acid hydrazide is reacted with 5-chloro-2-cyanophenyl isothiocyanate to produce 2-(3-furyl)-5-mercapto-[1,2,4]triazolo[1,5-c]quinazoline, mp>300°, which is converted to the 5-methylthio compound and thence to 9-chloro-2-(3-furyl)-5-imino-5,6-dihydro[1,2,4]triazolo[1,5-c]quinazoline, purified as the methanesulphonate salt, mp 290°-292°.

reactant | 3-furoic acid hydrazide | O1C=C(C=C1)C(=O)NN | C5H6N2O2
reactant | 5-chloro-2-cyanophenyl isothiocyanate | ClC=1C=CC(=C(C1)N=C=S)C#N | C8H3ClN2S
product | 2-(3-furyl)-5-mercapto-[1,2,4]triazolo[1,5-c]quinazoline | O1C=C(C=C1)C1=NN2C(=NC=3C=CC=CC3C2=N1)S | C13H8N4OS
